US06878728B1
3-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)propyl 4-nitrophenyl Carbonate
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(3-hydroxypropoxy)benzyl]propylcarbamate was treated with 4-nitrophenyl chloroformate as described previously to provide the title compound as a solid foam. 1H NMR (DMSO-d6): δ 0.86 (3H, d), 0.92 (3H, d), 1.2 (1H, dd), 1.38 (1H, quintuplet), 1.9-2.0 (1H, m), 2.05-2.15 (2H, m), 2.2 (1H, t), 2.6-2.8 (3H, m), 2.9 (1H, d), 2.96 (1H, dd), 3.2-3.3 (2H, m), 3.4-3.5 (1H, m), 3.5-3.6 (2H, m), 3.7 (1H, t), 3.8 (1H, dd), 4.0 (2H, t), 4.37 (2H, t), 4.8 (1H, dt), 5.0 (1H, d), 5.45 (1H, d), 6.18 (2H, s), 6.78 (2H, d), 7.0-7.1 (3H, m), 7.20-7.25 (2H, m), 7.3 (1H, dd), 7.56 (2H, d), 8.25 (2H, d); MS: 816 (MH+)

reactant | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(3-hydroxypropoxy)benzyl]propylcarbamate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCCO)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C31H42N2O11S
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
product | 3-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)propyl 4-nitrophenyl Carbonate | C(OCCCOC1=CC=C(C=C1)C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C1=CC2=C(OCO2)C=C1)O)NC(=O)O[C@H]1CO[C@H]2OCC[C@H]21)(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C38H45N3O15S
